US07238808B2
A mixture of 1-(4-chloro-3-methyl-phenyl)-4,4-difluoro-butane-1,3-dione (7.18 g, 29.1 mmol) and commercially available 3-aminopyrazole (2.42 g, 29.1 mmol) in acetic acid (70 mL) was refluxed for 4.5 h and evaporated. The crude product was further purified by crystallization (ethyl acetate/hexane) to yield 5-(4-chloro-3-methyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine (5.33 g, 62%) as an off-white solid. MS (EI) 293.2 [(M)+]; mp 107° C.

reactant | 1-(4-chloro-3-methyl-phenyl)-4,4-difluoro-butane-1,3-dione | 29.1 mmol, 7.18 g | ClC1=C(C=C(C=C1)C(CC(C(F)F)=O)=O)C | C11H9ClF2O2
reactant | 3-aminopyrazole | 29.1 mmol, 2.42 g | NC1=NNC=C1 | C3H5N3
solvent | acetic acid | 70 mL | C(C)(=O)O | C2H4O2
product | 5-(4-chloro-3-methyl-phenyl)-7-difluoromethyl-pyrazolo[1,5-a]pyrimidine | 5.33 g, 62% | ClC1=C(C=C(C=C1)C1=NC=2N(C(=C1)C(F)F)N=CC2)C | C14H10ClF2N3
